US07833995B2
3-methyl-1-[(1-phenyl-1H-tetrazol-5-yl)thio]octan-3-ol (Compound 39)
To a solution of the compound 38 (8.05 g) in toluene (98 mL) were added tetrabutylammonium bromide (1.62 g) and 2N sodium hydroxide (98 mL) at 0° C. and was added dropwise a suspension of tosyl chloride (10.5 g) in toluene (40 mL). The solution temperature was risen to room temperature and the solution was stirred for 1 hour. A solution of 1-phenyl-1H-tetrazole-5-thiol (10.74 g) in toluene was added thereto and the solution was stirred at 60° C. for 3.5 hours. The reaction solution was extracted with tert-butoxymethyl. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was purified by Yamazen Parallel Prep (Brand name; column: 3 L, inject column: 2 L, n-hexane:ethyl acetate=81:19) to give the title compound (14.15 g) having the following physical data.

reactant | sodium hydroxide | 2N, 98 mL | [OH-].[Na+]
reactant | tosyl chloride | 10.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 1-phenyl-1H-tetrazole-5-thiol | 10.74 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | toluene | 98 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 1.62 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-methyl-1-[(1-phenyl-1H-tetrazol-5-yl)thio]octan-3-ol | 14.15 g | CC(CCSC1=NN=NN1C1=CC=CC=C1)(CCCCC)O | C16H24N4OS
